US07847100B2
Anhydrous HCl was bubbled into a stirred solution of tert-butyl (2R)-2-ethynylpyrrolidine-1-carboxylate (0.71 g, 3.4 mmol) in ethyl acetate (15 mL) at 0° C. and allowed to mix for 45 min. Upon completion of the reaction as visualized by TLC (99:1 CH2Cl2 to MeOH), the solution was dried in vacuo to yield 2-prop-1-ynylpyrrolidinium chloride. LC-MS m/z=111. 1H NMR (CD3OD, 400 Mhz) 4.33-4.31 ppm (m, 1H), 3.42-3.24 (m, 2H), 2.36-1.99 (m, 4H), 1.88 (s, 3H).

reactant | HCl | Cl | ClH
reactant | tert-butyl (2R)-2-ethynylpyrrolidine-1-carboxylate | 3.4 mmol, 0.71 g | C(#C)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C11H17NO2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | MeOH | CO | CH4O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-prop-1-ynylpyrrolidinium chloride | [Cl-].C(#CC)C1[NH2+]CCC1 | InChI=1S/C7H11N.ClH/c1-2-4-7-5-3-6-8-7;/h7-8H,3,5-6H2,1H3;1H
